US08349880B2
Step M (1): Ethyl chloroformate (16.6 g, 153 mmol) was added to a solution of 2,3-difluorophenol (20 g, 153 mmol) and triethylamine (20.7 mL, 146 mmol) in EtOAc (200 mL). The resulting mixture was stirred at rt for 2 h. The crude reaction was poured into 1 N HCl and extracted with EtOAc. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified using silica gel column chromatography (5% EtOAc/hexane) to afford 2,3-difluorophenyl ethyl carbonate (20 g, 64% yield).

reactant | Ethyl chloroformate | 153 mmol, 16.6 g | ClC(=O)OCC | C3H5ClO2
reactant | 2,3-difluorophenol | 153 mmol, 20 g | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | triethylamine | 146 mmol, 20.7 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1 N | Cl | ClH
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2,3-difluorophenyl ethyl carbonate | 20 g, 64% yield | C(OC1=C(C(=CC=C1)F)F)(OCC)=O | C9H8F2O3
